US07777047B2
N-[2-(5-formyl-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide
A mixture of N-{2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (1.18 g), trifluoroacetic acid (3 mL), concentrated sulfuric acid (3 mL) and water (10 mL) was stirred at 50° C. for 2 hr. The reaction mixture was allowed to cool to room temperature, neutralized with saturated aqueous sodium hydrogencarbonate solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (1.1 g, yield 99%) as a brown amorphous solid from a fraction eluted with ethyl acetate:hexane=50:50. MS: 406 (MH+).

reactant | N-{2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 1.18 g | COC(C1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)OC | C19H21N3O4S3
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 10 mL | O | H2O
product | N-[2-(5-formyl-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 1.1 g, yield 99% | C(=O)C1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C17H15N3O3S3
